US08445509B2
Production of 1-(4-fluorophenyl)-6-methyltetrahydropyrimidin-2(1H)-one
To a solution of 1-(3-bromobutyl)-3-(4-fluorophenyl)urea (1750 mg, 6.1 mmol) in N,N-dimethylformamide (30 mL) was added potassium tert-butoxide (920 mg, 7.0 mmol), and the mixture was stirred at 50° C. for 6 hr. The solvent was evaporated under reduced pressure, and ethyl acetate/tetrahydrofuran and 6N aqueous hydrochloric acid solution were added to the residue. The aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). The combined organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/hexane=50/50→100/0) to give the title compound (490 mg, 39%) as a white solid.

reactant | 1-(3-bromobutyl)-3-(4-fluorophenyl)urea | 6.1 mmol, 1750 mg | BrC(CCNC(=O)NC1=CC=C(C=C1)F)C | C11H14BrFN2O
reactant | potassium tert-butoxide | 7.0 mmol, 920 mg | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(4-fluorophenyl)-6-methyltetrahydropyrimidin-2(1H)-one | 490 mg, 39% | FC1=CC=C(C=C1)N1C(NCCC1C)=O | C11H13FN2O
